US07514452B2
Preparation of ethyl 3-(4-hydroxyphenyl)-2-furancarboxylate
Using 4-hydroxyphenylboronic acid pinacol cyclic ester, a reaction and treatment was carried out in the same manner as in Reference Example 2, thereby giving 3-(4-hydroxyphenyl)-2-furancarboxylic acid. A reaction and treatment was further carried out in the same manner as in Reference Example 1, thereby giving the desired compound.

reactant | 4-hydroxyphenylboronic acid pinacol cyclic ester | B1(OC(C(O1)(C)C)(C)C)C2=CC=C(C=C2)O | C12H17BO3
reactant | 3-(4-hydroxyphenyl)-2-furancarboxylic acid | OC1=CC=C(C=C1)C1=C(OC=C1)C(=O)O | C11H8O4
product | ethyl 3-(4-hydroxyphenyl)-2-furancarboxylate | OC1=CC=C(C=C1)C1=C(OC=C1)C(=O)OCC | C13H12O4
